US04985560
N-[(1-Ethyl-2-pyrrolidinyl)methyl]-4-methylpyridazino[4,5-b]-indolizin-1-amine
Following the procedure of Example 1, reaction of one equivalent of 1-chloro-4-methylpyridazino[4,5-b]indolizine and 27 equivalents of 2-(aminomethyl)-1-ethylpyrrolidine gave the title compound as the free base which was converted to the dihydrochloride salt, mp. 128° C. (dec.).

reactant | 1-chloro-4-methylpyridazino[4,5-b]indolizine | one equivalent | ClC1=NN=C(C2=C1C=C1C=CC=CN21)C | C11H8ClN3
reactant | 2-(aminomethyl)-1-ethylpyrrolidine | 27 equivalents | NCC1N(CCC1)CC | C7H16N2
product | N-[(1-Ethyl-2-pyrrolidinyl)methyl]-4-methylpyridazino[4,5-b]-indolizin-1-amine | C(C)N1C(CCC1)CNC=1N=NC(=C2C1C=C1C=CC=CN21)C | C18H23N5
